US05679688
Step A: N-Quinaldoyl-L-Valine:
A mixture of 0.62 g (3.6 mmol) of quinaldic acid and 0.61 g (3.76 mmol) of 1,1'-carbonyldiimidazole in 1 ml of dry 1,4-dioxane was stirred for 30 rain at room temperature. To this, a solution of 0.43 g (3.7 mmol) of L-valine and 0.155g (3.7 mmol) of lithium hydroxide in 1 ml of water was added and the resulting mixture was stirred vigorously at room temperature for .about 4 hours; The mixture was diluted to 10 ml with water, cooled (ice-water bath), then acidified with 1N hydrochloric acid to pH about 3 and allowed to stand for 2 hours at 4° C. The crystals which formed were removed by filtration, washed three times with 5 ml of cold water and dried under high vacuum over phosphorus pentoxide to give 0.75 g of the product. Yield=76%, melting point 134°-136° C., NMR (DMSO-d6) 1.03 (d, 6H, val CH3); 2.3 (m, 1H, val CH-J3); 3.35 (broad s, 1H, OH); 4.49 (q, 1 H, val CH-α); 7.5-8.3 (m, 5H, aromatic); 8.5-8.76 (m, 2H, aromatic, NH).

reactant | quinaldic acid | 3.6 mmol, 0.62 g | C(C1=NC2=CC=CC=C2C=C1)(=O)O | C10H7NO2
reactant | 1,1'-carbonyldiimidazole | 3.76 mmol, 0.61 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | L-valine | 3.7 mmol, 0.43 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | lithium hydroxide | 3.7 mmol, 0.155g | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
product | N-Quinaldoyl-L-Valine | 0.75 g, Yield=76% | C(C1=NC2=CC=CC=C2C=C1)(=O)N[C@@H](C(C)C)C(=O)O | C15H16N2O3
